2131-07-11 19:11:00 Physician Attending Progress Note
Chief Complaint: Bradycardia, syncope, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient had elective hernia repair yesterday. Post-op exprienced
   syncope with a HR reported of 30-40. Was observed overnight in the
   hospital. This AM, BP dropped gradually and had a witnessed loss of
   consciousness for about 20 seconds. HR had dropped with a 15 sec pause
   after sinus brady; came out of this with sinus bradycardia.
   Denied chest pain. Had some nausea and diaphoresis. Was transferred to
   the ICU.
   In the ICU, has been in sinus bradycardia without additional symptoms.
   Patient had syncopal episode an airplane several months ago. No beta
   blockers or calcium blockers in his med list.
   Cardiac enzymes  negative X 2.
   24 Hour Events:
   PH:
   Incresased lipids
   Glucose intolerance
   BPH
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-7-11**] 12:06 PM
   Heparin Sodium (Prophylaxis) - [**2131-7-11**] 12:06 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-11**] 07:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 67 (57 - 72) bpm
   BP: 128/57(75) {100/57(37) - 133/87(92)} mmHg
   RR: 20 (9 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             1,820 mL
   PO:
             420 mL
   TF:
   IVF:
   1,400 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    600 mL
   Urine:
   600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,223 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : Left, Crackles : Right base, No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: RLQ, Obese
   Extremities: Right: Absent edema, Left: Absent edema, No(t) Cyanosis,
   No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   14.0 g/dL
   237 K/uL
   140 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.8 mEq/L
   14 mg/dL
   107 mEq/L
   139 mEq/L
   42.9 %
   13.3 K/uL
        [image002.jpg]
                             [**2131-7-11**]  09:17 AM
   WBC
   13.3
   Hct
   42.9
   Plt
   237
   Cr
   0.9
   TropT
   <0.01
   Glucose
   140
   Other labs: PT / PTT / INR:12.6/26.6/1.1, CK / CKMB /
   Troponin-T:54/3/<0.01, ALT / AST:16/16, Alk Phos / T Bili:55/0.6,
   Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR: widened mediastinum. No infiltrates or effusions.
   Assessment and Plan
 SYNCOPE
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   BRADYCARDIA
   HYPOTENSION
   ===============================
   Patient with documented sinus arrest with hx that is suggestive of
   vasovagal syncope. Given the frequency and severity of the episodes, I
   suspect the patient will required a pacemaker. It is possible, however,
   that if there is significant vasodiation as part of these episodes,
   pacemaker alone is not always sufficient to prevent the hypotension.
   Continue to monitor closely overnight. ASA started. Will place
   transcutaneous pacer pads.
   ICU Care
   Nutrition: Oral
   Glycemic Control:
   Lines:
   18 Gauge - [**2131-7-11**] 10:05 AM
   20 Gauge - [**2131-7-11**] 10:05 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments: Not applicable
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2131-07-12 07:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Seen by cardiology for bradycardia with episode of asystole - they
   will discuss with EP, suspect vagally mediated possible sick sinus
   syndrome. Rec replete electrolytes with goal K>4.0 and Mag>2.0. Avoid
   nodal agents. Monitor on tele
   -pacer pads in place in case he needs to be paced at night
   -CE negative x3
   - EP will see him today
   - no tele events o/n
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-7-11**] 12:06 PM
   Heparin Sodium (Prophylaxis) - [**2131-7-12**] 05:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-12**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37
C (98.6
   HR: 62 (57 - 72) bpm
   BP: 124/78(89) {100/57(37) - 141/109(99)} mmHg
   RR: 18 (9 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,040 mL
                                                                    176 mL
   PO:
                                                                    520 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,520 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    850 mL
   Urine:
                                                                  1,000 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,040 mL
                                                                   -674 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///26/
   Physical Examination
   General- Comfortable, pleasant, conversant, in NAD
   Lungs- CTAB
   Heart- RRR, no m/r/g
   Abd- BS+, tenderness over surgical area, non-distended
   Ext- Warm and well perfused
   Labs / Radiology
   250 K/uL
   14.0 g/dL
   120 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.9 mEq/L
   13 mg/dL
   107 mEq/L
   141 mEq/L
   43.4 %
   9.9 K/uL
        [image002.jpg]
                             [**2131-7-11**]  09:17 AM
                             [**2131-7-11**]  07:00 PM
                             [**2131-7-12**]  04:09 AM
   WBC
   13.3
   9.9
   Hct
   42.9
   43.4
   Plt
   237
   250
   Cr
   0.9
   1.0
   TropT
   <0.01
   <0.01
   Glucose
   140
   120
   Other labs: PT / PTT / INR:12.7/30.6/1.1, CK / CKMB /
   Troponin-T:56/3/<0.01, ALT / AST:16/16, Alk Phos / T Bili:55/0.6,
   Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   .
   Echo: No structural cardiac cause of syncope identified. Mild symmetric
   left ventricular hypertrophy with preserved global and regional
   biventricular systolic function. No significant valvular abnormality
   seen. No resting or inducible outflow tract obstruction.
   .
   CEs neg x 3
   Assessment and Plan
 SYNCOPE
   67 y/o M with PMHx of HL and post-op hernia repair syncopal episode who
   was transferred to [**Hospital Unit Name 1**] after a second bradycardic syncopal episode on
   the surgical floor.
   .
   # Syncope: Cards on board, think likely vasovagal syncope but cannot
   rule out [**Last Name 5863**] problem such as sick sinus syndrome.  Plan for EP to see
   him today. No causes seen on Echo. TSH nml.
   - monitor on continuous telemetry
   -CE neg x 3
   - ASA 325mg daily
   .
   # s/p L hernia repair: Pt is POD #2 from left hernia repair complicated
   by post-op syncope. Now in [**Hospital Unit Name 1**] for cardiac monitoring with mild
   hypoxia likely atelectasis seen on CXR.
   - incentive spirometry to bedside
   - tylenol/oxycodone prn pain
   .
   # Hyperlipidemia: continue lipitor
   .
   # BPH: holding avodart for now (non-formulary)
   .
   # FEN: Regular, DM diet, keeping Mg>2, K>4 per cards recs
   .
   # Prophylaxis: Heparin sc tid, Famotidine
   .
   # Access: 2 PIV
   .
   # Code: FULL
   .
   # Communication: Patient and Wife [**Name (NI) 9240**] cell [**Telephone/Fax (1) 9241**]
   work [**Telephone/Fax (1) 9242**]
   .
   # Disposition: Pending EP recs, likely home if no pacemaker (which
   patient does not want) or call out to floor if plan for pacer.
   ICU Care
   Nutrition:
   Regular, DM diet as tolerated
   Glycemic Control:  ISS
   Lines:
   18 Gauge - [**2131-7-11**] 10:05 AM
   20 Gauge - [**2131-7-11**] 10:05 AM
   Prophylaxis:
   DVT: heparin sq
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Either home if no pacemaker or call out to floor pending
   EP recs

2131-07-12 12:36:00 Physician Attending Progress Note
Chief Complaint: Hypotension, syncope, bradycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient did well through the night. No episodes of bradycardia or
   hypotension.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-7-12**] 05:19 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-12**] 12:36 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98.1
   HR: 65 (59 - 70) bpm
   BP: 129/81(91) {100/57(68) - 141/109(99)} mmHg
   RR: 21 (12 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,040 mL
                                                                    225 mL
   PO:
                                                                    520 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,520 mL
                                                                    125 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                  1,100 mL
   Urine:
                                                                  1,000 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,040 mL
                                                                   -876 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : ), (Breath Sounds: No(t) Clear : , Crackles :
   Bibasilar, No(t) Bronchial: , No(t) Wheezes : , No(t) Diminished: ,
   No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): X 3, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   14.0 g/dL
   250 K/uL
   120 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.9 mEq/L
   13 mg/dL
   107 mEq/L
   141 mEq/L
   43.4 %
   9.9 K/uL
        [image002.jpg]
                             [**2131-7-11**]  09:17 AM
                             [**2131-7-11**]  07:00 PM
                             [**2131-7-12**]  04:09 AM
   WBC
   13.3
   9.9
   Hct
   42.9
   43.4
   Plt
   237
   250
   Cr
   0.9
   1.0
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   140
   120
   Other labs: PT / PTT / INR:12.7/30.6/1.1, CK / CKMB /
   Troponin-T:56/3/<0.01, ALT / AST:16/16, Alk Phos / T Bili:55/0.6,
   Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 SYNCOPE
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   BRADYCARDIA
   HYPOTENSION
   ===========================
   Patient doing well with no recurrence of bradycardia or hypotension.
   Awaiting cardiology recommendations.
   ICU Care
   Nutrition: oral
   Glycemic Control:
   Lines:
   18 Gauge - [**2131-7-11**] 10:05 AM
   20 Gauge - [**2131-7-11**] 10:05 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2131-07-13 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -EP wants pacemaker but family quite upset and pt refusing
   -In [**Hospital Unit Name 1**] o/n for tele monitoring with plans for family/EP cards
   discussion tomorrow am regarding dispo
   -if willing to get pacemaker (very unlikely) will be called out,
   otherwise d/c home
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-7-12**] 07:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-13**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (98.9
   HR: 60 (60 - 73) bpm
   BP: 123/63(78) {115/63(78) - 168/93(103)} mmHg
   RR: 18 (16 - 26) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.2 kg (admission): 100.9 kg
             Total In:
                                                                    840 mL
                                                                     75 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                    240 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                    870 mL
   Urine:
                                                                  1,800 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -960 mL
                                                                   -796 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ////
   Physical Examination
   General- Comfortable, pleasant, conversant, in NAD
   Lungs- CTAB
   Heart- RRR, no m/r/g
   Abd- BS+, tenderness over surgical area, non-distended
   Ext- Warm and well perfused
   Labs / Radiology
   250 K/uL
   14.0 g/dL
   120 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.9 mEq/L
   13 mg/dL
   107 mEq/L
   141 mEq/L
   43.4 %
   9.9 K/uL
        [image002.jpg]
                             [**2131-7-11**]  09:17 AM
                             [**2131-7-11**]  07:00 PM
                             [**2131-7-12**]  04:09 AM
   WBC
   13.3
   9.9
   Hct
   42.9
   43.4
   Plt
   237
   250
   Cr
   0.9
   1.0
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   140
   120
   Other labs: PT / PTT / INR:12.7/30.6/1.1, CK / CKMB /
   Troponin-T:56/3/<0.01, ALT / AST:16/16, Alk Phos / T Bili:55/0.6,
   Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Echo - No structural cardiac cause of syncope identified. Mild
   symmetric left ventricular hypertrophy with preserved global and
   regional biventricular systolic function. No significant valvular
   abnormality seen. No resting or inducible outflow tract obstruction.
   MRSA screen - pending
   Assessment and Plan
 SYNCOPE
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   67 y/o M with PMHx of HL and post-op hernia repair syncopal episode who
   was transferred to [**Hospital Unit Name 1**] after a second bradycardic syncopal episode on
   the surgical floor.
   .
   # Syncope: Cards on board, think likely vasovagal syncope but cannot
   rule out [**Last Name 5863**] problem such as sick sinus syndrome.  EP recommends
   pacemaker placement, but patient is refusing pacemaker.  Risks and
   benefits were discussed to patient
s understanding.  Pt can be
   discharged home if he does not want a pacemaker with EP follow up.
   - monitor on telemetry while here
   - continue ASA 325mg daily
   .
   # s/p L hernia repair: Pt is POD #2 from left hernia repair complicated
   by post-op syncope. Now in [**Hospital Unit Name 1**] for cardiac monitoring with mild
   hypoxia likely atelectasis seen on CXR.
   - incentive spirometry to bedside
   - tylenol/oxycodone prn pain
   .
   # Hyperlipidemia: continue lipitor
   .
   # BPH: holding avodart for now (non-formulary)
   .
   # FEN: Regular, DM diet, keeping Mg>2, K>4 per cards recs
   .
   # Prophylaxis: Heparin sc tid, Famotidine
   .
   # Access: 2 PIV
   .
   # Code: FULL
   .
   # Communication: Patient and Wife [**Name (NI) 9240**] cell [**Telephone/Fax (1) 9241**]
   work [**Telephone/Fax (1) 9242**]
   .
   # Disposition: d/c home with EP follow up
   ICU Care
   Nutrition:
   Regular, DM diet as tolerated
   Glycemic Control:  ISS
   Lines:
   18 Gauge - [**2131-7-11**] 10:05 AM
   20 Gauge - [**2131-7-11**] 10:05 AM
   Prophylaxis:
   DVT: heparin sq
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Either home if no pacemaker or call out to floor pending
   EP recs
   Code status: Full code
   Disposition: d/c home with EP follow up

2131-07-13 12:30:00 Physician Attending Progress Note
Chief Complaint: Bradycardia, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient feelling well. No dizziness, palpitations.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-7-12**] 07:45 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-13**] 12:29 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.8
C (98.3
   HR: 83 (60 - 84) bpm
   BP: 123/74(87) {115/63(78) - 168/93(103)} mmHg
   RR: 19 (16 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.2 kg (admission): 100.9 kg
             Total In:
                                                                    840 mL
                                                                    121 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                    240 mL
                                                                    121 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                  1,070 mL
   Urine:
                                                                  1,800 mL
                                                                  1,070 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -960 mL
                                                                   -949 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, Absent),
   (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic), Sitting position
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent edmea, Left: Absent edema, No(t) Cyanosis,
   No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   14.0 g/dL
   250 K/uL
   120 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.9 mEq/L
   13 mg/dL
   107 mEq/L
   141 mEq/L
   43.4 %
   9.9 K/uL
        [image002.jpg]
                             [**2131-7-11**]  09:17 AM
                             [**2131-7-11**]  07:00 PM
                             [**2131-7-12**]  04:09 AM
   WBC
   13.3
   9.9
   Hct
   42.9
   43.4
   Plt
   237
   250
   Cr
   0.9
   1.0
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   140
   120
   Other labs: PT / PTT / INR:12.7/30.6/1.1, CK / CKMB /
   Troponin-T:56/3/<0.01, ALT / AST:16/16, Alk Phos / T Bili:55/0.6,
   Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 SYNCOPE
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   BRADYCARDIA
   HYPOTENSION
   Patient doing well with no recurrent symptoms. He is refusing a
   pacemaker. We will be arranging for cardiology follow up.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2131-7-11**] 10:05 AM
   20 Gauge - [**2131-7-11**] 10:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :D/C Home
   Total time spent: 25 minutes